US04725600
To a suspension of 3,4-dihydro-6-(3,4 dimethoxyphenyl)-2-methylpyrimidin-4-one (2.0 g) in N,N-dimethylformamide (20 ml) were added potassium tert.butoxide (1.08 g) and methyl iodide (1.0 ml), and stirred at ambient temperature for an hour. Resulting mixture was poured into water, and extracted with ethyl acetate. The organic layer was chromatographed on silica gel eluting with chloroform to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2,3-dimethylpyrimidin-4-one (1.38 g).

reactant | 3,4-dihydro-6-(3,4 dimethoxyphenyl)-2-methylpyrimidin-4-one | 2.0 g | COC=1C=C(C=CC1OC)C1=CC(NC(=N1)C)=O | C13H14N2O3
reactant | potassium tert.butoxide | 1.08 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 1.0 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-2,3-dimethylpyrimidin-4-one | 1.38 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)C)C)=O | C14H16N2O3
